US04699926
Step B: 5-[2,3-Dichloro-4-(2-methylenebutyryl)-phenoxy]valeric acid
5-(2,3-Dichloro-4-butyrylphenoxy)valeric acid (9.8 g, 0.029 mole), dimethylamine hydrochloride (15 g, 0.184 mole), paraformaldehyde (2.8 g, 0.09 equivalent) and acetic acid (1 ml) were united and stirred and heated on a steam bath for 3 hours. N,N-dimethylformamide (30 ml) was added and stirring and heating continued for another two hours. The reaction mixture was then poured into ice water and the solid that separated was removed by filtration, washed with water and dried. After recrystallization from butyl chloride the 5-[2,3-dichloro-(2-methylenebutyryl)phenoxy]valeric acid (5.4 g) melted at 107°-109° C.

reactant | 5-(2,3-Dichloro-4-butyrylphenoxy)valeric acid | 0.029 mole, 9.8 g | ClC1=C(OCCCCC(=O)O)C=CC(=C1Cl)C(CCC)=O | C15H18Cl2O4
reactant | dimethylamine hydrochloride | 0.184 mole, 15 g | Cl.CNC
reactant | paraformaldehyde | 2.8 g, 0.09 equivalent | C=O | CH2O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-[2,3-Dichloro-4-(2-methylenebutyryl)-phenoxy]valeric acid | ClC1=C(OCCCCC(=O)O)C=CC(=C1Cl)C(C(CC)=C)=O | C16H18Cl2O4
